US07781436B2
2-{6-Chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide hydrochloride
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester gave, after treatment with HCl the title compound.

reactant | {6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | C23H20ClF3N2O3
reactant | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | HCl | Cl | ClH
product | 2-{6-Chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide hydrochloride | Cl.ClC1=CC=C2C(=CN(C2=C1)CC(=O)NCCNC)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C26H28ClF3N4O2.ClH/c1-31-10-11-32-24(35)16-34-15-21(20-7-6-18(27)14-23(20)34)25(36)33-12-8-17(9-13-33)19-4-2-3-5-22(19)26(28,29)30;/h2-7,14-15,17,31H,8-13,16H2,1H3,(H,32,35);1H
